* CTLE  corner=tt vdd=1.8 temp=27.0C analysis=ac models=sky130
.temp 27.0
.param vdd=1.8
Vdd vdd 0 {vdd}
Vcm cm 0 0.9
Vinp inp cm AC 0.5 SIN(0 0.05 100e6)
Vinn inn cm AC -0.5 SIN(0 -0.05 100e6)
.lib "/Users/siddharthsudunagunta/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
XM1 outp inp sp 0 sky130_fd_pr__nfet_01v8 L=0.1500 W=4.8293 nf=1 m=1
XM2 outn inn sn 0 sky130_fd_pr__nfet_01v8 L=0.1500 W=4.8293 nf=1 m=1
Itp sp 0 5e-05
Itn sn 0 5e-05
Rs sp sn 5000.0
Cs sp sn 1.8022641388850988e-13
Rlp vdd outp 1584.7317039966583
Rln vdd outn 1584.7317039966583
Clp outp 0 3e-14
Cln outn 0 3e-14
.ac dec 50 1e6 10e9
.end
